US08492371B2
5-(1,1-dimethylprop-2-ynyl)-1,3,4-thiadiazol-2-amine
Commercially available, 2,2-dimethylbut-3-ynoic acid (Betapharma), thiosemicarbazide (Aldrich) and phosphorus oxychloride (Aldrich) were processed as described for Example 1A to obtain the title compound. MS (ESI+) m/z 168 (M+H)+.

reactant | 2,2-dimethylbut-3-ynoic acid | CC(C(=O)O)(C#C)C | C6H8O2
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-(1,1-dimethylprop-2-ynyl)-1,3,4-thiadiazol-2-amine | CC(C#C)(C)C1=NN=C(S1)N | C7H9N3S
